Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
PCN, lexapro, lorazepam, sertraline,sulfa
 
Attending: ___.
 
Chief Complaint:
syncope  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ with history of severe basilar artery stenosis, depression 
with psychotic features, cognitive impairment from dementia, 
HTN, HLD and gout who presented to the ED today after syncopal 
episode.  

 This afternoon, she was on the toilet trying to have a bowel 
movement and acutely passed out. Event was witnessed by staff 
there and reported that she became cyanotic and possible had no 
pulse. However, pulse spontaneously returned and she was 
conversational afterward. Reportedly blood pressure was noted to 
be "low", although numbers are not documented. IV fluids and 
oxygen were given and she was sent to the ED for further 
evaluation. There was no report of trauma. She denies prodromal 
symptoms, chest pain, dyspnea, palpitations, headache, numbness, 
tingling or weakness. Denies fevers, coughs or recent colds. 
Denies abd pain. She denied urinary symptoms.  

 She also slipped and fell in the shower last week and was 
evaluated at ___. She was diagnosed with low back strain 
after trauma evaluation was negative and then admitted to ___ 
___ for rehabilitation. She has had some back pain since then 
but was progressing with ___. Course was notable for hyperactive 
delirium and involvement of Palliative Care.  

 Per report, the patient often has syncopal episodes.  
 In the ED, initial vital signs were: T98.8, HR 67, BP 146/77, 
RR 20, SpO2 99%RA.  
 - Exam was WNL  
 - Labs were notable for: WBC 11.2 (86% PMNs), BUN 33, Cr 1.2, 
lactate 2.8, troponin 0.1 x2 and UA with 15 RBCs, WBC ___, few 
bacteria, 30 protein and 1 epi.  
 - Imaging: C-spine CT negative for acute trauma and head CT 
negative for acute trauma.  
 - The patient was given: 1L NS, 650mg PO Tylenol and 1g 
ceftriaxone for UTI.  
 - Consults: none  

 Vitals prior to transfer were: T 97.7, HR 90, BP 160/68, RR 20, 
100% RA.  

 Upon arrival to the floor, the patient had no acute complaints. 
She was unable to significantly augment the above history.  

 REVIEW OF SYSTEMS: Per HPI. Denies headache, visual changes, 
pharyngitis, rhinorrhea, nasal congestion, cough, fevers, 
chills, sweats, weight loss, dyspnea, chest pain, abdominal 
pain, nausea, vomiting, diarrhea, constipation, hematochezia, 
dysuria, rash, paresthesias, and weakness.  

 
Past Medical History:
- Basilar artery stenosis  
 - Depression with psychotic features  
 - Dementia  
 - HTN  
 - HLD  
 - Gout  
 - Acute angle glaucoma/macular degenation  
 - Hard of hearing  
 - Hypothyroidism  
 - Cholelithiasis  
 - Osteoarthritis of the R knee  
 - Constipation  
 - Pancreatic Cyst  
 - Cataracts  

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
ADMISSION
VITALS: T 97.6, BP 127/268 then 174/85 on repeat. Lying: 178/82, 
Sitting 181/85. HR 67. RR 19. SpO2 98% RA. Weight 125.6kg (bed). 
 
 GENERAL: Pleasant, well-appearing, in no apparent distress. 
Alert to person, place and time (___).  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, OP clear.  right surgical pupil, left 
constricted
 NECK: Supple, no LAD, no thyromegaly, JVP flat.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Clear to auscultation bilaterally, without wheezes 
or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema. Changes and deformities in fingers consistent with 
osteoarthritis.  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox1, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  

OBJECTIVE:  
Vitals:  Tm 98.1 Tc 97.9 BP 112-190/54-81, 67-81, ___ O2 98%RA
GENERAL - Alert, interactive, confused, cooperative in NAD  
HEENT - L pupil is pinpoint and nonreactive, R pupil appears 
post-surgical and nonreactive, EOMI, sclerae anicteric, MMM, OP 
clear,  
HEART - RRR, nl S1-S2, no MRG  
LUNGS - CTAB on frontal exam 
ABDOMEN - NABS, soft/NT/ND, no masses or HSM  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema. Changes and deformities in fingers consistent with 
osteoarthritis.  
NEUROLOGIC: A&Ox1, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. 
 
Pertinent Results:
ADMISSION
___ 04:05PM BLOOD WBC-11.2* RBC-4.34 Hgb-12.4 Hct-39.1 
MCV-90 MCH-28.6 MCHC-31.7* RDW-14.6 RDWSD-47.7* Plt ___
___ 04:05PM BLOOD Glucose-152* UreaN-33* Creat-1.2* Na-138 
K-5.0 Cl-100 HCO3-24 AnGap-19
___ 04:05PM BLOOD cTropnT-<0.01
___ 10:40PM BLOOD cTropnT-<0.01
___ 05:35AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.9

DISCHARGE:
___ 06:10AM BLOOD WBC-5.8 RBC-4.08 Hgb-11.5 Hct-36.6 MCV-90 
MCH-28.2 MCHC-31.4* RDW-14.2 RDWSD-46.4* Plt ___
___ 06:10AM BLOOD Glucose-106* UreaN-24* Creat-0.7 Na-137 
K-4.1 Cl-102 HCO3-27 AnGap-12

MICRO:
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
___ 5:00 pm Blood Culture, Routine (Pending): No growth to 
day

Imaging:
CT C spine ___: No fx, Moderate cervical spondylosis, Minimal 
anterolisthesis of C3 on C4 and C4 on C5, likely degenerative in 
etiology.  

CT head ___: No bleed. 1.6x1.4 cm left parietotemporal lobe 
calcified lesion may represent cavernous malformation, or 
arterial venous malformation. Aerosolized Secretions in the 
right maxillary sinus with moderate mucosal thickening 
suggestion of ongoing sinus inflammation.  
 

 
Brief Hospital Course:
Brief Hospital Course:
___ PMH of severe basilar artery stenosis, depression (w/ 
psychotic features), cognitive impairment ___ dementia), HTN, 
vasovagal syncope who p/w syncopal event during ___ thought to be 
___ recurrent vasovagal syncope, also found to have ___ 
which improved with treatment, whose hospital course was c/b 
intermittent sundowning

Investigations/Interventions:
#Syncope: 
As per son, patient has history of several vasovagal syncopal 
events, some even c/b sinus pauses. Since event prior to 
hospitalization occurred while stooling, thought to be 
recurrence of vasovagal syncope. EKG with anterior qwaves, but 
troponins ruled out acute event. No significant arryhtmias on 
telemetry. Given repeated syncopal events ___ presumed vagal 
tone, atenolol was discontinued. CT head and neck did not show 
e/o acute stroke or complication of syncope.  Pt was given 
gentle IVF as well. 

#UTI: 
Pt found to have uncomplicated UTI, and culture remained pending 
on discharge. Leukocytosis resolved with treatment. Pt 
transitioned from ceftriaxone to Bactrim with plan for ___. Would repeat UA at rehab to ensure that 
infection has cleared s/p treatment

___: 
Pt presented with Cr of 1.2 that decreased to 0.7 w/ IV fluids. 
Most likely prerenal ___ which may have predisposed patient to 
syncope during presumed vasovagal attack.

#HTN: 
As above, atenolol was discontinued. SBP following 
discontinuation were 110-180, with highest pressures in morning. 
Accordingly, would recommend that amlodipine be given at night 
before bed so that it is most active during morning when she 
experience's high BP.

#Hyperactive delirium
#Dementia
#Depression (w/ psychotic features)
Patient was noted to sundown consistent with her recent history 
and was maintained on nighttime olanzapine to good effect

#Low back Pain/Sprain: 
___ fall in the shower weeks ago. Given lack of bony injury and 
fact that weeks have passed from prior event discontinued 
oxycodone dosing.

Transitional Issues:
1. 3 day course of Bactrim from ___. Would repeat UA at 
rehab to ensure that infection has cleared s/p treatment
2. Would reassess BP at rehab s/p adjusting amlodipine to 
nighttime dosing
3. Pt requires significant rehab to restore her prior functional 
status according to our ___ assessment
4. Pt found to have isolated elevation in Alk Phos of unknown 
significance. Would recommend repeat in 1 week as outpatient to 
assess if continually elevated.

#CONTACT: ___, ___  
#CODE: DNR/DNR confirmed with son on admission
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q8H:PRN pain 
2. Atenolol 25 mg PO DAILY 
3. Calcium Carbonate 1250 mg PO QHS 
4. Vitamin D 1000 UNIT PO DAILY 
5. Docusate Sodium 100 mg PO DAILY 
6. Fluticasone Propionate NASAL 1 SPRY NU BID 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Menthoderm (methyl salicylate-menthol) ___ % topical BID 
9. OLANZapine 2.5 mg PO QHS 
10. Omeprazole 20 mg PO DAILY 
11. Polyethylene Glycol 17 g PO DAILY 
12. Pravastatin 20 mg PO QPM 
13. Senna 17.2 mg PO BID 
14. Ursodiol 300 mg PO BID 
15. Venlafaxine XR 75 mg PO DAILY 
16. Amlodipine 2.5 mg PO DAILY 
17. Restasis 0.05 % Other Q12H 
18. OxycoDONE (Immediate Release)  2.5 mg PO Q12H 
19. Bisacodyl 10 mg PR QHS:PRN constipation 
20. Ibuprofen 200 mg PO Q8H:PRN pain 
21. Aluminum-Magnesium Hydrox.-Simethicone 15 mL PO QID:PRN GI 
upset 
22. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
23. OxycoDONE (Immediate Release)  2.5 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q8H:PRN pain 
2. Docusate Sodium 100 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. OLANZapine 2.5 mg PO QHS 
6. Polyethylene Glycol 17 g PO DAILY 
7. Pravastatin 20 mg PO QPM 
8. Senna 17.2 mg PO BID 
9. Ursodiol 300 mg PO BID 
10. Venlafaxine XR 75 mg PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. Bisacodyl 10 mg PR QHS:PRN constipation 
13. Amlodipine 2.5 mg PO HS 
14. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 2 Days 
15. Calcium Carbonate 1250 mg PO QHS 
16. Ibuprofen 200 mg PO Q8H:PRN pain 
17. Menthoderm (methyl salicylate-menthol) ___ % topical BID 
18. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
19. Omeprazole 20 mg PO DAILY 
20. Restasis 0.05 % Other Q12H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Urinary Tract Infection
Acute Kidney Injury
Vasovagal Syncopal episode

 
Discharge Condition:
Discharge Condition: Stable
Mental Status: AOx1, baseline
Ambulatory Status: Rolling walker with significant 1:1 
assistance (baseline)

 
Discharge Instructions:
Mrs. ___

___ was a pleasure taking care of you at ___. As you know you 
were admitted after passing out. Fortunately, you did not have 
any major injuries. You were found to have a urinary tract 
infection which improved with treatment. You were then 
discharged back to rehab to continue physical therapy.

 
Followup Instructions:
___